US08614219B2
(+/−) 4-Chloro-2-methoxy-N-(4-oxo-2-pyrimidin-4-yl-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidin-9-ylmethyl)-benzamide
To a solution of 0.067 g (0.20 mmol) of 9-aminomethyl-2-pyrimidin-4-yl-6,7,8,9-tetrahydro-pyrido[1,2-a]pyrimidin-4-one hydrobromide (1:1) dissolved in 2.00 mL of dimethylformamide were added 0.053 g (0.20 mmol) of 4-chloro-2-methoxy-benzoic acid, 0.030 mL (0.20 mmol) of diethylcyanophosphonate and 0.140 mL (1.00 mmol) of triethylamine. The resulting mixture was stirred at room temperature for 2 hours. Water and ethyl acetate were added, the mixture was extracted with ethyl acetate and the organic phase was washed with a saturated solution of ammonium chloride, dried over sodium sulfate and concentrated. A purification on silica gel (eluant: dichloromethane with 5% of methanol) gave 0.049 g (57%) of pure product obtained in the form of free base as a solid.

reactant | 9-aminomethyl-2-pyrimidin-4-yl-6,7,8,9-tetrahydro-pyrido[1,2-a]pyrimidin-4-one hydrobromide | 0.20 mmol, 0.067 g | Br.NCC1CCCN2C1=NC(=CC2=O)C2=NC=NC=C2
reactant | 4-chloro-2-methoxy-benzoic acid | 0.20 mmol, 0.053 g | ClC1=CC(=C(C(=O)O)C=C1)OC | C8H7ClO3
reactant | diethylcyanophosphonate | 0.20 mmol, 0.030 mL | C(C)OP(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 1.00 mmol, 0.140 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2.00 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | (+/−) 4-Chloro-2-methoxy-N-(4-oxo-2-pyrimidin-4-yl-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidin-9-ylmethyl)-benzamide | 0.049 g, 57% | ClC1=CC(=C(C(=O)NCC2CCCN3C2=NC(=CC3=O)C3=NC=NC=C3)C=C1)OC | C21H20ClN5O3
